US09376422B2
Step 6: Synthesis of 5-bromo-2-methyl-3-[(oxan-4-yl)(2,2,2-trifluoroethyl)amino]benzoic acid
To a stirred solution of methyl 5-bromo-2-methyl-3-[(oxan-4-yl)(2,2,2-trifluoroethyl)amino]benzoate (572 mg, 1.4 mmol) in a mixture of THF (14 ml) and MeOH (2.1 ml), was added 4M NaOH (aq) (13.9 ml). The reaction mixture was stirred at 50° C. for 5.5 hours and then stirred at room temperature for 17 hours. The THF was removed by concentrating in-vacuo and the aqueous residue was acidified to pH 4 with 6M HCl (9.5 ml). The resulting suspension was allowed to stand at room temperature for 20 minutes before collecting the solid by filtration. The solid cake was washed with water (20 ml) and dried under high vacuum for 2 hours to give the title compound (507 mg, 90%) as a white solid. LC-MS 98%, m/z=395.9, 396.9, 397.9, 398.9; 1H NMR (500 MHz, Chloroform-d) δ ppm 7.97 (d, J=1.73 Hz, 1H) 7.48 (d, J=1.73 Hz, 1H) 4.02 (dd, J=11.35, 3.94 Hz, 2H) 3.65 (br. s, 2H) 3.33 (t, J=11.59 Hz, 2H) 3.00 (tt, J=11.49, 3.80 Hz, 1H) 2.55 (s, 3H) 1.82 (d, J=11.98 Hz, 2H) 1.55-1.69 (m, 2H). OH not visible.

reactant | methyl 5-bromo-2-methyl-3-[(oxan-4-yl)(2,2,2-trifluoroethyl)amino]benzoate | 1.4 mmol, 572 mg | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(CC(F)(F)F)C1CCOCC1 | C16H19BrF3NO3
reactant | NaOH | 4M, 13.9 ml | [OH-].[Na+]
solvent | THF | 14 ml | C1CCOC1 | C4H8O
solvent | MeOH | 2.1 ml | CO | CH4O
product | 5-bromo-2-methyl-3-[(oxan-4-yl)(2,2,2-trifluoroethyl)amino]benzoic acid | 507 mg, 90% | BrC=1C=C(C(=C(C(=O)O)C1)C)N(CC(F)(F)F)C1CCOCC1 | C15H17BrF3NO3
